US07125901B2
To a suspension of N-{4-[2-(3,4-diaminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide (70.8 mg) in MeOH (0.7 ml) was added cyanogen bromide (25.3 mg), then the mixture was stirred for 14 h at 20° C. To the reaction mixture was added 1N—NaOH (0.239 ml) and the mixture was concentrated in vacuo. To the residue was added CHCl3: MeOH=10:1 (10 ml), and an insoluble material was removed by filtration. The filtrate was purified by flash column chromatography over NH silica gel with CHCl3/MeOH (100:1→10:1) as an eluent to give colorless oil. The oil was solidified with CH2Cl2: Et2O=2:1 to give N-{4-[2-(2-amino-1H-benzimidazol-6-yl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide as a white solid.

reactant | N-{4-[2-(3,4-diaminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide | 70.8 mg | NC=1C=C(C=CC1N)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H24N4O3S2
reactant | cyanogen bromide | 25.3 mg | N#CBr | CBrN
reactant | NaOH | 0.239 ml | [OH-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 0.7 ml | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | N-{4-[2-(2-amino-1H-benzimidazol-6-yl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide | NC1=NC2=C(N1)C=C(C=C2)CCC=2N=C(SC2CC2=CC=C(C=C2)S(=O)(=O)C)NC(C)=O | C22H23N5O3S2
